US05587379
This compound was prepared in a manner analogous to that of Step C of Example 12, using 30.0 grams (0.242 mole) of 2,4-diamino-6-methylpyrimidine, 82.8 grams (0.363 mole) of ammonium persulfate and 360 mL of aqueous 5N sodium hydroxide. The product was recrystallized from water, yielding 27.3 grams of 2,4-diamino-6-methyl-5-pyrimidinyl hydrogen sulfate, mp 285° C., dec. The IR spectrum was consistent with the proposed structure.

reactant | 2,4-diamino-6-methylpyrimidine | 0.242 mole, 30.0 grams | NC1=NC(=CC(=N1)N)C | C5H8N4
reactant | ammonium persulfate | 0.363 mole, 82.8 grams | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
product | 2,4-diamino-6-methyl-5-pyrimidinyl hydrogen sulfate | 27.3 grams | S(=O)(=O)(OC=1C(=NC(=NC1C)N)N)O | C5H8N4O4S
